* source AMPLIDIFF
V_Val+         VDD 0 5
V_V2         0 VSS 5
I_I2         N19717 VSS DC 500u  
V_Vd         IN+ IN- DC 0Vdc AC 0Vac 
V_Vcm         IN- 0 DC 0Vdc AC 0Vac 
M_M4         OUT N19154 VDD VDD pcg  
+ L=7.8E-6  
+ W=0.138E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-6  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
M_M1         N19154 IN+ N19717 N19717 ncg  
+ L=7.8E-6  
+ W=0.069E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-3  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
M_M2         OUT IN- N19717 N19717 ncg  
+ L=7.8E-6  
+ W=0.069E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-3  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
M_M3         N19154 N19154 VDD VDD pcg  
+ L=7.8E-6  
+ W=0.138E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-6  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
